US07452880B2
To a solution of 2-chloro-5-methylpyridine (10 mL) in 155 mL of glacial acetic acid was added 19 mL of 30% aqueous hydrogen peroxide. The mixture was stirred at 80° C. for 8 hours. The mixture was diluted with 100 mL of water and then concentrated in a vacuum. The residue was made strongly alkaline with anhydrous sodium carbonate and shaken with 200 mL of chloroform. The solids were removed via filtration, and the filtrate was dried over sodium sulfate, filtered and concentrated to give 10.8 g of the 2-chloro-5-methylpyridine-N-oxide (82%). Mass Spec. M+H=144.

reactant | 2-chloro-5-methylpyridine | 10 mL | ClC1=NC=C(C=C1)C | C6H6ClN
reactant | hydrogen peroxide | 19 mL | OO | H2O2
solvent | acetic acid | 155 mL | C(C)(=O)O | C2H4O2
solvent | water | 100 mL | O | H2O
product | 2-chloro-5-methylpyridine-N-oxide | 10.8 g, 82% | ClC1=[N+](C=C(C=C1)C)[O-] | C6H6ClNO
